US08703768B2
Step 2: 6-Acetyl-3-amino-pyrazine-2-carboxylic acid methyl ester
To a stirred solution of 6-acetyl-3-tert-butoxycarbonylamino-pyrazine-2-carboxylic acid methyl ester (500 mg, 1.69 mmol) at rt in dioxane (10 ml) under an argon atmosphere was added 4 M HCl solution in dioxane (4.23 ml, 16.9 mmol) in one portion. The reaction mixture was stirred overnight, then concentrated. The residue was triturated with Et2O, filtrated and dried. The solid was taken up in EtOAc (50 ml) and washed with saturated aqueous Na2CO3 solution (20 ml) and brine. The organic phase was dried over MgSO4, filtrated and concentrated to give the title compound (313 mg, 95%) as orange powder.

reactant | 6-acetyl-3-tert-butoxycarbonylamino-pyrazine-2-carboxylic acid methyl ester | 1.69 mmol, 500 mg | COC(=O)C1=NC(=CN=C1NC(=O)OC(C)(C)C)C(C)=O | C13H17N3O5
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 16.9 mmol, 4.23 ml | O1CCOCC1 | C4H8O2
product | 6-Acetyl-3-amino-pyrazine-2-carboxylic acid methyl ester | 313 mg, 95% | COC(=O)C1=NC(=CN=C1N)C(C)=O | C8H9N3O3
